US05872136
Step A: 2-(3-Trifluoromethoxyphenyl)-5-methylpyridine
To a solution of 3-bromotrifluoromethoxybenzene (0.590 mL, 4.00 mmol) in THF (12 mL) at -78° C. was added t-butyl lithium (4.71 mL, of a 1.7M solution in pentane, 8.00 mmol. After 10 minutes zinc chloride(4.0 mL, of a 1M solution in diethylether, 4.00 mmol) was added. The reaction was stirred for 10 minutes at -78° C. and then allowed to warm to 0° C. and stirred for 30 minutes. This solution was added via cannula to a solution of 2-bromo-5-methyl pyridine and bis(triphenylphosphine) Nickel II chloride. The reaction stirred for 1 hour at 0° C. and then at ambient temperature for a furthur 1 hour. Saturated ammonium hydroxide solution (3 mL) was added and the mixture stirred until homogenous, extracted with Et2O and the organic extracts washed with saturated brine, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed (Silica gel, 25-50% CH2Cl2 in hexanes).

reactant | 3-bromotrifluoromethoxybenzene | 4.00 mmol, 0.590 mL | BrC=1C=C(C=CC1)OC(F)(F)F | C7H4BrF3O
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | 2-bromo-5-methyl pyridine | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | diethylether | C(C)OCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | bis(triphenylphosphine) Nickel | [Ni].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3-Trifluoromethoxyphenyl)-5-methylpyridine | FC(OC=1C=C(C=CC1)C1=NC=C(C=C1)C)(F)F | C13H10F3NO
